US08455475B2
(R)-tert-Butyl 2((6-(methoxycarbonyl)-2,3-dihydro-1H-inden-1-ylamino)methyl)-1H-pyrrole-1-carboxylate
A solution of (3R)-3-amino-2,3-dihydro-1H-indene-5-carboxylic acid methyl ester (A-03) (361 mg, 1.88 mmol, 1 eq.) in methylene chloride (3 ml) was added to a solution of tert-butyl 2-formyl-5-methyl-1H-pyrrole-1-carboxylate (434 mg, 2.08 mmol, 1.1 eq.) in dry methylene chloride (17 ml) at 0° C. and the resulting reaction mixture was stirred at 25° C. for 2 h. The reaction mixture was cooled to 0° C. and then Na(OAc)3BH (1.2 g, 5.66 mmol, 3 eq.) was added portionwise and it was stirred at 25° C. for 14 h. The reaction mixture was diluted with methylene chloride (200 ml) and washed with saturated sodium bicarbonate (50 ml), water (2×50 ml) and brine (50 ml), and dried over sodium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by column chromatography (silica gel; 5% EtOAc/hexanes) to give the desired product as a light yellow oil. Yield: 82% (600 mg, 1.56 mmol).

reactant | (3R)-3-amino-2,3-dihydro-1H-indene-5-carboxylic acid methyl ester | 1.88 mmol, 361 mg, 1 eq. | COC(=O)C=1C=C2[C@@H](CCC2=CC1)N | C11H13NO2
reactant | tert-butyl 2-formyl-5-methyl-1H-pyrrole-1-carboxylate | 2.08 mmol, 434 mg, 1.1 eq. | C(=O)C=1N(C(=CC1)C)C(=O)OC(C)(C)C | C11H15NO3
reactant | Na(OAc)3BH | 5.66 mmol, 1.2 g, 3 eq. | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 17 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | (R)-tert-Butyl 2((6-(methoxycarbonyl)-2,3-dihydro-1H-inden-1-ylamino)methyl)-1H-pyrrole-1-carboxylate | Yield: 82% | COC(=O)C1=CC=C2CC[C@H](C2=C1)NCC=1N(C=CC1)C(=O)OC(C)(C)C | C21H26N2O4
